US07589116B2
Ethyl 1-(3-bromophenyl)-5-methyl-1H-pyrazole-3-carboxylate
A solution of 3-bromophenylhydrazine hydrochloride (2 g, 8.9 mmol) and ethyl-2,4-dioxovalerate (1.69 g, 10.7 mmol) in acetic acid (44 ml) was refluxed for 16 hours. The reaction was cooled to room temperature and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was washed with water, saturated bicarbonate and brine, and then dried over sodium sulfate, filtered and concentrated in vacuo. The crude product, thus obtained, was purified by silica-gel column chromatography (4.8:0.2 hexanes/ethyl acetate) to give the product (2.34 g, 84%) as a syrup.

reactant | 3-bromophenylhydrazine hydrochloride | 8.9 mmol, 2 g | Cl.BrC=1C=C(C=CC1)NN
reactant | ethyl-2,4-dioxovalerate | 10.7 mmol, 1.69 g | C(C)OC(C(CC(C)=O)=O)=O | C7H10O4
solvent | acetic acid | 44 ml | C(C)(=O)O | C2H4O2
product | Ethyl 1-(3-bromophenyl)-5-methyl-1H-pyrazole-3-carboxylate | 2.34 g, 84% | BrC=1C=C(C=CC1)N1N=C(C=C1C)C(=O)OCC | C13H13BrN2O2
